US07977364B2
A solution of boron tribromide 1M in CH2Cl2 (11.9 ml, 11.9 mmoles) was slowly added to a solution of 6-benzyloxy-3-cyclohexyl-1,2-benzisothiazole (3.5 g, 10 mmoles) in CH2Cl2 (50 ml) at 0° C. The mixture was stirred at room temperature for 15 min and poured into water. The precipitate was filtered, dried and crystallised from EtOH to give pure 3-cyclohexyl-1,2-benzisothiazol-6-ol (940 mg, 40.3%). mp 190° C.

reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
reactant | 6-benzyloxy-3-cyclohexyl-1,2-benzisothiazole | 10 mmoles, 3.5 g | C(C1=CC=CC=C1)OC1=CC2=C(C(=NS2)C2CCCCC2)C=C1 | C20H21NOS
reactant | water | O | H2O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 11.9 mmoles, 11.9 ml | C(Cl)Cl | CH2Cl2
product | 3-cyclohexyl-1,2-benzisothiazol-6-ol | 940 mg, 40.3% | C1(CCCCC1)C1=NSC2=C1C=CC(=C2)O | C13H15NOS
